US04661607
A mixture of 1.2 g of 4-chloro-3-hydroxy-9-oxo-9H-xanthene, 1.7 g of potassium carbonate, 2.1 g of ethyl bromoacetate and 30 ml of DMF was stirred at 60°-70° C. for 3 hours. After cooling the mixture, water was added and the resulting crystal was recovered by filtration, washed with water and dried. Recrystallization from ethanol gave 1.1 g of ethyl 4-chloro-9-oxo-9H-xanthene-3-yloxyacetate. m.p. 183°-185° C.

reactant | 4-chloro-3-hydroxy-9-oxo-9H-xanthene | 1.2 g | ClC1=C(C=CC=2C(C3=CC=CC=C3OC12)=O)O | C13H7ClO3
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 2.1 g | BrCC(=O)OCC | C4H7BrO2
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ethyl 4-chloro-9-oxo-9H-xanthene-3-yloxyacetate | 1.1 g | ClC1=C(C=CC=2C(C3=CC=CC=C3OC12)=O)OCC(=O)OCC | C17H13ClO5
